US09284331B2
9-cyclopropyl-2-(4-((trifluoromethoxy)methyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one
A solution of 9-cyclopropyl-2-(4-(hydroxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (135 mg, 0.38 mmol) in CHCl3 (50 mL) under Ar, was treated with 3,3-Dimethyl-1-(trifluoromethyl)-1,2-benziodoxole (245 mg, 0.78 mmol) and Zn(NTf2)2 (242 mg, 0.39 mmol). The mixture was stirred at RT for 16 h, and then treated again with 3,3-Dimethyl-1-(trifluoromethyl)-1,2-benziodoxole (245 mg, 0.78 mmol) and Zn(NTf2)2 (242 mg, 0.39 mmol). After 24 h, the mixture was poured onto H2O and extracted with DCM. The combined org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, DCM/MeOH 100:0 to 95:5) and by SFC (column: PPU 5 m, 250×30 mm, 60 A, Princeton; eluent: isocratic 20% MeOH/CO2 for 11 min; flow 100 mL/min; UV detection at 220 nm) to give the title compound (3 mg). UPLC-MS: MS 417.2 (M+H+); UPLC rt 1.15 min. 1H NMR (400 MHz, DMSO-d6): δ ppm 0.56-0.71 (m, 2H); 0.93-1.05 (m, 2H); 1.91-2.04 (m, 1H); 3.14-3.20 (m, 2H); 3.89-4.01 (m, 2H); 4.34 (br s, 2H); 5.00 (s, 2H); 7.03 (s, 1H); 7.18-7.26 (m, 1H); 7.26-7.34 (m, 1H); 7.69-7.85 (m, 2H); 8.25 (s, 1H).

reactant | 9-cyclopropyl-2-(4-(hydroxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.38 mmol, 135 mg | C1(CC1)C1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)CO | C20H20N4O2
reactant | 3,3-Dimethyl-1-(trifluoromethyl)-1,2-benziodoxole | 0.78 mmol, 245 mg | CC1(OI(C2=C1C=CC=C2)C(F)(F)F)C | C10H10F3IO
reactant | 3,3-Dimethyl-1-(trifluoromethyl)-1,2-benziodoxole | 0.78 mmol, 245 mg | CC1(OI(C2=C1C=CC=C2)C(F)(F)F)C | C10H10F3IO
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Zn(NTf2)2 | 0.39 mmol, 242 mg | [Zn](N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
catalyst | Zn(NTf2)2 | 0.39 mmol, 242 mg | [Zn](N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F
product | 9-cyclopropyl-2-(4-((trifluoromethoxy)methyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 3 mg | C1(CC1)C1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)COC(F)(F)F | C21H19F3N4O2
